US04617316
A stirred mixture of 20.0 g (0.12 mole) of 2-chloro-4-nitroaniline and 17.9 g (0.14 mole) of 2,5-dimethoxytetrahydrofuran in 30 ml of glacial acetic acid was heated at reflux for three hours. The mixture was cooled to room temperature, diluted with water, and extracted with diethyl ether. The extract was washed with a saturated aqueous potassium carbonate solution then dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated from the filtrate under reduced pressure to leave a solid. The solid was purified by recrystallization from methylcyclohexane to yield 22.5 g of 1-(2-chloro-4-nitrophenyl)pyrrole (mp 54°-55° C.).

reactant | 2-chloro-4-nitroaniline | 0.12 mole, 20.0 g | ClC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | 2,5-dimethoxytetrahydrofuran | 0.14 mole, 17.9 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-(2-chloro-4-nitrophenyl)pyrrole | 22.5 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])N1C=CC=C1 | C10H7ClN2O2
